US06727264B1
N-{3-[1-({2-[(4-CYANOBENZYL)OXY]-1-NAPHTHYL)METHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 4-{[(1-formyl-2-naphthyl)oxy]methyl}benzonitrile and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 518.2 (M+H)+.

reactant | 4-{[(1-formyl-2-naphthyl)oxy]methyl}benzonitrile | C(=O)C1=C(C=CC2=CC=CC=C12)OCC1=CC=C(C#N)C=C1 | C19H13NO2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-({2-[(4-CYANOBENZYL)OXY]-1-NAPHTHYL)METHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | C(#N)C1=CC=C(COC2=C(C3=CC=CC=C3C=C2)CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=C1 | C34H35N3O2
